US07354932B2
To an ˜7:1 mixture of benzoic acid 4-(tert-butyldimethylsilyloxy)-2-methylene-butyl ester and benzoic acid 3-(tert-butyldimethylsilyloxymethyl)-but-3-enyl ester (1.00 g, 3.13 mmol) in methanol (31 mL) was added NaOH (0.306 g, 7.64 mmol) and the mixture was stirred at room temperature for 2 hours. The mixture was diluted with ethyl acetate (75 mL) and saturated aqueous NaHCO3 (20 mL). The phases were separated and the organic phase was washed with brine (2×10 mL), dried (MgSO4), and concentrated. Purification of the crude material by column chromatography on silica gel (9:1 hexanes-ethyl acetate) provided 0.58 g (58%) of 4-(tert-butyldimethylsilyloxy)-2-methylene-butan-1-ol as a colorless oil. 1H NMR (CDCl3) δ 0.06 (s, 6H), 0.90 (s, 9H), 2.34 (t, 2H, J=6.0 Hz); 2.78 (br s, 1H), 3.75 (t, 2H, J=6.0 Hz), 4.07-4.11 (m, 2H), 4.90 (s, 1H), 5.04 (s, 1H);

reactant | benzoic acid 4-(tert-butyldimethylsilyloxy)-2-methylene-butyl ester | [Si](C)(C)(C(C)(C)C)OCCC(COC(C1=CC=CC=C1)=O)=C | C18H28O3Si
reactant | benzoic acid 3-(tert-butyldimethylsilyloxymethyl)-but-3-enyl ester | 3.13 mmol, 1.00 g | [Si](C)(C)(C(C)(C)C)OCC(CCOC(C1=CC=CC=C1)=O)=C | C18H28O3Si
reactant | NaOH | 7.64 mmol, 0.306 g | [OH-].[Na+]
solvent | methanol | 31 mL | CO | CH4O
solvent | ethyl acetate | 75 mL | C(C)(=O)OCC | C4H8O2
solvent | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
product | 4-(tert-butyldimethylsilyloxy)-2-methylene-butan-1-ol | 0.58 g, 58% | [Si](C)(C)(C(C)(C)C)OCCC(CO)=C | C11H24O2Si
